US04792551
1.0 g of 1-(9-anthryloxy)-2-aminoethane maleate suspended in 50 ml of ether is stirred with a twofold stoichiometric excess of dilute aqueous potassium carbonate solution until the salt is completely dissolved. The organic layer is then separated, washed twice with water, dried over magnesium sulfate and evaporated to yield 1-(9-anthryloxy)-2-aminoethane as the free base.

reactant | 1-(9-anthryloxy)-2-aminoethane maleate | 1.0 g | C(\C=C/C(=O)O)(=O)O.C1=CC=CC2=CC3=CC=CC=C3C(=C12)OCCN
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | ether | 50 ml | CCOCC | C4H10O
product | 1-(9-anthryloxy)-2-aminoethane | C1=CC=CC2=CC3=CC=CC=C3C(=C12)OCCN | C16H15NO
